US07820665B2
Step 2. N-(6-(6-chloro-5-(4-fluorophenylsulfonamido)pyridin-3-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide
To a 25-mL, round-bottomed flask was added N-(5-bromo-2-chloropyridin-3-yl)-4-fluorobenzenesulfonamide (0.15 g, 0.41 mmol), bis(pinacolato)diboron (0.16 g, 0.62 mmol), potassium acetate (0.16 g, 1.6 mmol) and 1,4-dioxane (4.0 mL). The mixture was carefully evacuated and backfilled with N2. To the solution was added dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)dichloromethane adduct (0.030 g, 0.041 mmol). The mixture was carefully evacuated and backfilled with N2 again then stirred at 90° C. for 6 h. The reaction mixture was cooled to rt and treated with DMF (4.0 mL, 52 mmol), N-(6-chloroimidazo[1,2-b]pyridazin-2-yl)acetamide (0.055 g, 0.26 mmol) and 2.0 M aq. sodium carbonate (0.78 mL, 1.6 mmol). The mixture was carefully evacuated and backfilled with N2. To the solution was added trans-dichlorobis(triphenylphosphine)palladium(II) (0.018 g, 0.026 mmol) and then the solution was carefully evacuated and backfilled with N2 again. The mixture was stirred at 90° C. for 16 hours then poured into aq. NaCl (100 mL) and extracted with 25% iPrOH/CHCl3 (3×75 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to remove the DMF. The solution was then taken up in MeOH/CH2Cl2 and concentrated onto silica. Purification by silica gel chromatography (0.5 to 5.0% MeOH (2 M in NH3)/CH2Cl2) afforded the title compound as a yellow solid. MS (ESI pos. ion) m/z: 461 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.96 (s, 1H), 10.57 (s, 1H), 8.92 (d, J=2.2 Hz, 1H), 8.31-8.36 (m, 2H), 8.13 (d, J=9.4 Hz, 1H), 7.80-7.88 (m, 3H), 7.39-7.48 (m, 2H), 2.13 (s, 3H).

reactant | N-(5-bromo-2-chloropyridin-3-yl)-4-fluorobenzenesulfonamide | 0.41 mmol, 0.15 g | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=CC=C(C=C1)F | C11H7BrClFN2O2S
reactant | bis(pinacolato)diboron | 0.62 mmol, 0.16 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.6 mmol, 0.16 g | C(C)(=O)[O-].[K+]
reactant | DMF | 52 mmol, 4.0 mL | CN(C)C=O | C3H7NO
reactant | N-(6-chloroimidazo[1,2-b]pyridazin-2-yl)acetamide | 0.26 mmol, 0.055 g | ClC=1C=CC=2N(N1)C=C(N2)NC(C)=O | C8H7ClN4O
reactant | sodium carbonate | 1.6 mmol, 2.0 M, 0.78 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.026 mmol, 0.018 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | N-(6-(6-chloro-5-(4-fluorophenylsulfonamido)pyridin-3-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide | ClC1=C(C=C(C=N1)C=1C=CC=2N(N1)C=C(N2)NC(C)=O)NS(=O)(=O)C2=CC=C(C=C2)F | C19H14ClFN6O3S
